US04895860
Step (5) Preparation of N'-Hydroxy-(5-bromo-2-benzthiophenyl)ethanimidamide
To a stirred solution of hydroxylamine hydrochloride (3.86 g, 0.056 mol) in MeOH (100 mL) was added sodium methoxide (25 wt % in MeOH, 10.33 g, 0.056 mol). Stirring was continued for 15 minutes and 5-bromo-2-benzthiophenylacetonitrile (7.0 g, 0.028 mol) was added. The resulting mixture was refluxed for 2 days, cooled, and concentrated. The residue was diluted with H2O. The solid was collected by filtration, purified by column chromatography (eluant: EtOAc/hexane, 2:3) to give 4.0 g (50%) of product as a white solid.

reactant | hydroxylamine hydrochloride | 0.056 mol, 3.86 g | Cl.NO
reactant | sodium methoxide | 0.056 mol, 10.33 g | C[O-].[Na+]
reactant | 5-bromo-2-benzthiophenylacetonitrile | 0.028 mol, 7.0 g | BrC=1C=CC2=C(C=C(S2)CC#N)C1 | C10H6BrNS
solvent | MeOH | 100 mL | CO | CH4O
product | N'-Hydroxy-(5-bromo-2-benzthiophenyl)ethanimidamide | 4.0 g, 50% | ON=C(CC=1SC2=C(C1)C=C(C=C2)Br)N | C10H9BrN2OS
